US07846964B2
A solution of 3-(4-formyl-phenyl)-propionic acid (142 mg, 0.80 mmol), (1aS,5aR)-1-(1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-ethanone (176 mg, 0.80 mmol), KOH (2.8 g, 50 mmol) in methanol (25 mL) is stirred at 70° C. for 1 h. The reaction mixture is diluted with water (400 mL) and acidified by adding 2 N aq. HCl. The mixture is extracted twice with DCM, the organic extracts are combined, dried over Na2SO4 and evaporated. The crude product is purified by prep. HPLC (Waters Xterra MS18 30×75 mm, 10 to 95% acetonitrile in water containing 0.5% formic acid) to give 3-{4-[3-oxo-3-((1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-propenyl]-phenyl}-propionic acid (125 mg) as yellow resin; LC-MS: tR=1.07 min, [M+1]+=381.18.

reactant | 3-(4-formyl-phenyl)-propionic acid | 0.80 mmol, 142 mg | C(=O)C1=CC=C(C=C1)CCC(=O)O | C10H10O3
reactant | (1aS,5aR)-1-(1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-ethanone | 0.80 mmol, 176 mg | CC1([C@@H]2[C@H]1CC1=C(SC(=C21)C)C(C)=O)C | C13H16OS
reactant | KOH | 50 mmol, 2.8 g | [OH-].[K+]
reactant | HCl | 2 N | Cl | ClH
solvent | methanol | 25 mL | CO | CH4O
solvent | water | 400 mL | O | H2O
product | 3-{4-[3-oxo-3-((1aS,5aR)-1,1,2-trimethyl-1,1a,5,5a-tetrahydro-3-thia-cyclopropa[a]pentalen-4-yl)-propenyl]-phenyl}-propionic acid | 125 mg | O=C(C=CC1=CC=C(C=C1)CCC(=O)O)C1=C2C[C@@H]3[C@H](C2=C(S1)C)C3(C)C | C23H24O3S
